US03954775
Preparation of 2,3,6,9-Tetrahydro-6-benzyloxy-3-benzyl-2,9-dioxothiazolo[5,4-f]quinoline-8-carboxylic Acid -- Step 5
To a mixture of 1.0 g of 2,3,6,9-tetrahydro-6-hydroxy-2,9-dioxothiazolo[5,4-f]quinoline-8-carboxylic acid, 0.96 g of an 85% -- potassium hydroxide aqueous solution, 20 ml of water and 7 ml of methanol was added dropwise 2.77 g of benzyl bromide and the mixture was stirred for 44 hours at room temperature.

reactant | 2,3,6,9-tetrahydro-6-hydroxy-2,9-dioxothiazolo[5,4-f]quinoline-8-carboxylic acid | 1.0 g | ON1C=C(C(C2=C3C(=CC=C12)NC(S3)=O)=O)C(=O)O | C11H6N2O5S
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 20 ml | O | H2O
reactant | benzyl bromide | 2.77 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methanol | 7 ml | CO | CH4O
product | 2,3,6,9-Tetrahydro-6-benzyloxy-3-benzyl-2,9-dioxothiazolo[5,4-f]quinoline-8-carboxylic Acid | C(C1=CC=CC=C1)ON1C=C(C(C2=C3C(=CC=C12)N(C(S3)=O)CC3=CC=CC=C3)=O)C(=O)O | C25H18N2O5S
